US05969134
Methyl 2-hydroxy-3,3-diphenylbutyrate
1.5 g (5.9 mmol) of methyl 3,3-diphenyl-2,3-epoxypropionate dissolved in 10 ml of absolute ether were added dropwise to a cuprate solution which had been prepared from 635 mg (7 mmol) of copper(I) cyanide dissolved in 10 ml of absolute ether and 8.14 ml (13 mmol) of a 1.6 normal methyllithium solution and had been cooled to -78° C. The solution was stirred at -78° C. for 1 h and then allowed to warm to room temperature. It was subsequently diluted with 100 ml of ether and 100 ml of water, and the ether phase was washed with dilute citric acid and with sodium bicarbonate solution and dried over magnesium sulfate. The crude product was purified by chromatography on silica gel with cyclohexane/ethyl acetate mixtures to result in 250 mg (16%) of a pale yellow oil.

reactant | methyl 3,3-diphenyl-2,3-epoxypropionate | 5.9 mmol, 1.5 g | C1(=CC=CC=C1)C1(C(C(=O)OC)O1)C1=CC=CC=C1 | C16H14O3
reactant | copper(I) cyanide | 7 mmol, 635 mg | [Cu]C#N
reactant | methyllithium | C[Li]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | Methyl 2-hydroxy-3,3-diphenylbutyrate | 250 mg, 16% | OC(C(=O)OC)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H18O3
